US08536214B2
(R)-ethyl-1-((2-(1-methylethylsulfonamido)-2,3-dihydro-1H-inden-5-yl)methyl)-3-(trifluoromethyl)-1H-pyrazole-4-carboxylate (2.416 mmol, 1.11 g) was dissolved in THF (20 mL) and the vessel purged with nitrogen. Lithium aluminium hydride (1M, 4.83 mmol, 4.83 mL) was added dropwise and the mixture stirred at room temperature for 1 h. The reaction was quenched by addition of MeOH followed by water before concentration. The residue was partitioned between 1N HCl and EtOAc and the organic phase collected. The aqueous phase was further extracted with EtOAc (×2). Combined organics were dried and concentrated before purification on silica eluting with 30% EtOAc/iso-hexane followed by 50% EtOAc/iso-hexane. Desired fractions were collected and concentrated to give (R)—N-(5-((4-(hydroxymethyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl)methyl)-2,3-dihydro-1 H-inden-2-yl)propane-2-sulfonamide as a colourless glass (0.690 g, 68.5%). MS (ESI): m/z [M+Na]+ 440.5

reactant | (R)-ethyl-1-((2-(1-methylethylsulfonamido)-2,3-dihydro-1H-inden-5-yl)methyl)-3-(trifluoromethyl)-1H-pyrazole-4-carboxylate | 2.416 mmol, 1.11 g | C(C)OC(=O)C=1C(=NN(C1)CC=1C=C2C[C@@H](CC2=CC1)NS(=O)(=O)C(C)C)C(F)(F)F | C20H24F3N3O4S
reactant | Lithium aluminium hydride | 4.83 mmol, 1M, 4.83 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (R)—N-(5-((4-(hydroxymethyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl)methyl)-2,3-dihydro-1 H-inden-2-yl)propane-2-sulfonamide | 0.690 g, 68.5% | OCC=1C(=NN(C1)CC=1C=C2C[C@@H](CC2=CC1)NS(=O)(=O)C(C)C)C(F)(F)F | C18H22F3N3O3S
